US04464369
Trifluoroacetic acid (3.6 ml) was added to a suspension of 7-[2-tert-butoxycarbonylmethoxyimino-2-(1,2,4-thiadiazol-3-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer) (1.2 g) in anisole (1.2 ml), and the mixture was stirred for 2 hours at ambient temperature. The resultant solution was added dropwise to diisopropyl ether (100 ml) and the precipitates were collected by filtration. The precipitates were added to a mixture of water (50 ml) and ethyl acetate (50 ml) and adjusted to pH 6.5 with 5% aqueous sodium bicarbonate. The separated aqueous layer was adjusted to pH 2.5 with 10% hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and then evaporated to give 7-[2-carboxymethoxyimino-2-(1,2,4-thiadiazol-3-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer) (0.5 g).

reactant | Trifluoroacetic acid | 3.6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-[2-tert-butoxycarbonylmethoxyimino-2-(1,2,4-thiadiazol-3-yl)acetamido]-3-cephem-4-carboxylic acid | 1.2 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C1=NSC=N1 | C17H19N5O7S2
reactant | diisopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
solvent | anisole | 1.2 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-carboxymethoxyimino-2-(1,2,4-thiadiazol-3-yl)acetamido]-3-cephem-4-carboxylic acid | 0.5 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C1=NSC=N1 | C13H11N5O7S2
